US07138425B2
c) 2-[4-Methoxy-5-[5-(4-methylphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-methoxyphenyl)-5-(4-methylphenyl)benzoxazole (75 mg, 0.23 mmol) and 1,2,4-benzenetricarboxylic anhydride (44 mg, 0.23 mmol) the title compound was obtained (78 mg, 67%). 1H NMR (DMSO) δ 8.43(dd, 1H), 8.33(s, 1H), 8.21(d, 1H), 8.10(d, 1H), 8.04(d, 1H), 7.85(d, 1H), 7.71(m, 2H), 7.63(d, 2H), 7.46(d, 1H), 7.30(d, 2H), 4.03(s, 3H), 2.36(s, 3H). MS 505.1 m/z (M+H)+.

reactant | 2-(3-amino-6-methoxyphenyl)-5-(4-methylphenyl)benzoxazole | 0.23 mmol, 75 mg | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)C | C21H18N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.23 mmol, 44 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Methoxy-5-[5-(4-methylphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)C)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C30H20N2O6
